* LVS reference netlist for bandgap_top -- GENERATED, do not edit.
*
* Produced by layout/lvs/make_reference.py from
* design/netlist/bandgap_top.spice + layout/bandgap_top/plan.py. See
* that script's docstring for the nine mechanical transformations
* applied and why each one is a klt-extraction-deck capability (or a
* drawn-decomposition) consequence rather than a design
* simplification.
*
* drawn trim code : 32
* MOS devices     : 34 nfet + 47 pfet (14 of them edge dummies)
* resistors       : 65 ppolyf_u + 1 ppolyf_u_1k
* bipolars        : 16 bjt (2 per drawn PNP unit -- see the docstring's step 8)
* capacitors      : 1 cap_mim_2f0_m4m5_noshield

.SUBCKT bandgap_top vdd vss vref vsubs nwl
Camp_CC amp_CC_bot amp_CC_top 6.914880e-12 cap_mim_2f0_m4m5_noshield
Mamp_M1_0 amp_n1 sns2 amp_tail vsubs nfet L=4U W=25U
Mamp_M1_1 amp_n1 sns2 amp_tail vsubs nfet L=4U W=25U
Mamp_M1_2 amp_n1 sns2 amp_tail vsubs nfet L=4U W=25U
Mamp_M1_3 amp_n1 sns2 amp_tail vsubs nfet L=4U W=25U
Mamp_M1_4 amp_n1 sns2 amp_tail vsubs nfet L=4U W=25U
Mamp_M1_5 amp_n1 sns2 amp_tail vsubs nfet L=4U W=25U
Mamp_M1_6 amp_n1 sns2 amp_tail vsubs nfet L=4U W=25U
Mamp_M1_7 amp_n1 sns2 amp_tail vsubs nfet L=4U W=25U
Mamp_M2_0 amp_n2 sns1 amp_tail vsubs nfet L=4U W=25U
Mamp_M2_1 amp_n2 sns1 amp_tail vsubs nfet L=4U W=25U
Mamp_M2_2 amp_n2 sns1 amp_tail vsubs nfet L=4U W=25U
Mamp_M2_3 amp_n2 sns1 amp_tail vsubs nfet L=4U W=25U
Mamp_M2_4 amp_n2 sns1 amp_tail vsubs nfet L=4U W=25U
Mamp_M2_5 amp_n2 sns1 amp_tail vsubs nfet L=4U W=25U
Mamp_M2_6 amp_n2 sns1 amp_tail vsubs nfet L=4U W=25U
Mamp_M2_7 amp_n2 sns1 amp_tail vsubs nfet L=4U W=25U
Mamp_M3_0 amp_a3 amp_nd1 vdd nwl pfet L=16U W=10U
Mamp_M3_1 amp_a3 amp_nd1 vdd nwl pfet L=16U W=10U
Mamp_M4_0 amp_a4 amp_nd1 vdd nwl pfet L=16U W=10U
Mamp_M4_1 amp_a4 amp_nd1 vdd nwl pfet L=16U W=10U
Mamp_M5_0 amp_tail ibias vss vsubs nfet L=4U W=10U
Mamp_MB1_0 amp_ncasc amp_pbias vdd nwl pfet L=50U W=5U
Mamp_MBD1_0 amp_ncasc amp_ncasc amp_nb1 vsubs nfet L=4U W=1U
Mamp_MBD2_0 amp_nb1 amp_nb1 vss vsubs nfet L=4U W=1U
Mamp_MBN2_0 amp_pbias ibias vss vsubs nfet L=16U W=2U
Mamp_MBP1_0 amp_pbias amp_pbias vdd nwl pfet L=50U W=1U
Mamp_MC1_0 amp_nd1 amp_ncasc amp_n1 vsubs nfet L=16U W=10U
Mamp_MC1_1 amp_nd1 amp_ncasc amp_n1 vsubs nfet L=16U W=10U
Mamp_MC2_0 fb amp_ncasc amp_n2 vsubs nfet L=16U W=10U
Mamp_MC2_1 fb amp_ncasc amp_n2 vsubs nfet L=16U W=10U
Mamp_MC3_0 amp_nd1 amp_pbias amp_a3 nwl pfet L=16U W=20U
Mamp_MC3_1 amp_nd1 amp_pbias amp_a3 nwl pfet L=16U W=20U
Mamp_MC4_0 fb amp_pbias amp_a4 nwl pfet L=16U W=20U
Mamp_MC4_1 fb amp_pbias amp_a4 nwl pfet L=16U W=20U
Mcore_M1_0 core_d1 fb vdd nwl pfet L=6U W=15U
Mcore_M1_1 core_d1 fb vdd nwl pfet L=6U W=15U
Mcore_M1_2 core_d1 fb vdd nwl pfet L=6U W=15U
Mcore_M1_3 core_d1 fb vdd nwl pfet L=6U W=15U
Mcore_M2_0 core_d2 fb vdd nwl pfet L=6U W=15U
Mcore_M2_1 core_d2 fb vdd nwl pfet L=6U W=15U
Mcore_M2_2 core_d2 fb vdd nwl pfet L=6U W=15U
Mcore_M2_3 core_d2 fb vdd nwl pfet L=6U W=15U
Mcore_M3_0 core_d3 fb vdd nwl pfet L=6U W=15U
Mcore_M3_1 core_d3 fb vdd nwl pfet L=6U W=15U
Mcore_M3_2 core_d3 fb vdd nwl pfet L=6U W=15U
Mcore_M3_3 core_d3 fb vdd nwl pfet L=6U W=15U
Mcore_M4_0 core_d4 fb vdd nwl pfet L=6U W=7.5U
Mcore_M5_0 ibias ibias vss vsubs nfet L=2U W=2.5U
Mcore_MC1_0 sns1 casc core_d1 nwl pfet L=6U W=15U
Mcore_MC1_1 sns1 casc core_d1 nwl pfet L=6U W=15U
Mcore_MC1_2 sns1 casc core_d1 nwl pfet L=6U W=15U
Mcore_MC1_3 sns1 casc core_d1 nwl pfet L=6U W=15U
Mcore_MC2_0 sns2 casc core_d2 nwl pfet L=6U W=15U
Mcore_MC2_1 sns2 casc core_d2 nwl pfet L=6U W=15U
Mcore_MC2_2 sns2 casc core_d2 nwl pfet L=6U W=15U
Mcore_MC2_3 sns2 casc core_d2 nwl pfet L=6U W=15U
Mcore_MC3_0 vref casc core_d3 nwl pfet L=6U W=15U
Mcore_MC3_1 vref casc core_d3 nwl pfet L=6U W=15U
Mcore_MC3_2 vref casc core_d3 nwl pfet L=6U W=15U
Mcore_MC3_3 vref casc core_d3 nwl pfet L=6U W=15U
Mcore_MC4_0 ibias casc core_d4 nwl pfet L=6U W=7.5U
Mcore_MCB_0 casc casc vdd nwl pfet L=12U W=4U
Mcore_MNB_0 casc ibias vss vsubs nfet L=2U W=5U
Mdum_ampload_l vdd vdd vdd nwl pfet L=16U W=2U
Mdum_ampload_r vdd vdd vdd nwl pfet L=16U W=2U
Mdum_ampncasc_l vss vss vss vsubs nfet L=16U W=2U
Mdum_ampncasc_r vss vss vss vsubs nfet L=16U W=2U
Mdum_amppair_l vss vss vss vsubs nfet L=4U W=2U
Mdum_amppair_r vss vss vss vsubs nfet L=4U W=2U
Mdum_amppcasc_l vdd vdd vdd nwl pfet L=16U W=2U
Mdum_amppcasc_r vdd vdd vdd nwl pfet L=16U W=2U
Mdum_corecasc_l vdd vdd vdd nwl pfet L=6U W=2U
Mdum_corecasc_r vdd vdd vdd nwl pfet L=6U W=2U
Mdum_coreibias_l vdd vdd vdd nwl pfet L=6U W=2U
Mdum_coreibias_r vdd vdd vdd nwl pfet L=6U W=2U
Mdum_coremirror_l vdd vdd vdd nwl pfet L=6U W=2U
Mdum_coremirror_r vdd vdd vdd nwl pfet L=6U W=2U
Mstartup_MKCASC_0 casc startup_det vss vsubs nfet L=2U W=2U
Mstartup_MKFB_0 fb startup_det vss vsubs nfet L=2U W=2U
Mstartup_MSENSE_0 startup_det ibias vss vsubs nfet L=2U W=10U
Mstartup_MSENSE_1 startup_det ibias vss vsubs nfet L=2U W=10U
Qcore_Q1_b vsubs nw_core_Q1 vss bjt AE=3.744000e-11
Qcore_Q1_e vsubs nw_core_Q1 sns1 bjt AE=2.500000e-11
Qcore_Q2_0_b vsubs nw_core_Q2_0 vss bjt AE=3.744000e-11
Qcore_Q2_0_e vsubs nw_core_Q2_0 core_e2 bjt AE=2.500000e-11
Qcore_Q2_1_b vsubs nw_core_Q2_1 vss bjt AE=3.744000e-11
Qcore_Q2_1_e vsubs nw_core_Q2_1 core_e2 bjt AE=2.500000e-11
Qcore_Q2_2_b vsubs nw_core_Q2_2 vss bjt AE=3.744000e-11
Qcore_Q2_2_e vsubs nw_core_Q2_2 core_e2 bjt AE=2.500000e-11
Qcore_Q2_3_b vsubs nw_core_Q2_3 vss bjt AE=3.744000e-11
Qcore_Q2_3_e vsubs nw_core_Q2_3 core_e2 bjt AE=2.500000e-11
Qcore_Q3_b vsubs nw_core_Q3 vss bjt AE=3.744000e-11
Qcore_Q3_e vsubs nw_core_Q3 core_e3 bjt AE=2.500000e-11
Qdum_pnp_l_b vsubs nw_dum_pnp_l vss bjt AE=3.744000e-11
Qdum_pnp_l_e vsubs nw_dum_pnp_l vss bjt AE=2.500000e-11
Qdum_pnp_r_b vsubs nw_dum_pnp_r vss bjt AE=3.744000e-11
Qdum_pnp_r_e vsubs nw_dum_pnp_r vss bjt AE=2.500000e-11
Rcore_R1 core_e3 core_tn0 vsubs 71239.000000 ppolyf_u
Rcore_R2 core_e2 sns2 vsubs 5379.500000 ppolyf_u
Rcore_trim_RU0 core_tn0 core_tn0 vsubs 485.100000 ppolyf_u
Rcore_trim_RU1 core_tn0 core_trim_u1_0 vsubs 485.100000 ppolyf_u
Rcore_trim_RU10 core_trim_u3_2 core_trim_u3_3 vsubs 485.100000 ppolyf_u
Rcore_trim_RU11 core_trim_u3_3 core_trim_u3_4 vsubs 485.100000 ppolyf_u
Rcore_trim_RU12 core_trim_u3_4 core_trim_u3_5 vsubs 485.100000 ppolyf_u
Rcore_trim_RU13 core_trim_u3_5 core_trim_u3_6 vsubs 485.100000 ppolyf_u
Rcore_trim_RU14 core_trim_u3_6 core_tn0 vsubs 485.100000 ppolyf_u
Rcore_trim_RU15 core_tn0 core_trim_u4_0 vsubs 485.100000 ppolyf_u
Rcore_trim_RU16 core_trim_u4_0 core_trim_u4_1 vsubs 485.100000 ppolyf_u
Rcore_trim_RU17 core_trim_u4_1 core_trim_u4_2 vsubs 485.100000 ppolyf_u
Rcore_trim_RU18 core_trim_u4_2 core_trim_u4_3 vsubs 485.100000 ppolyf_u
Rcore_trim_RU19 core_trim_u4_3 core_trim_u4_4 vsubs 485.100000 ppolyf_u
Rcore_trim_RU2 core_trim_u1_0 core_tn0 vsubs 485.100000 ppolyf_u
Rcore_trim_RU20 core_trim_u4_4 core_trim_u4_5 vsubs 485.100000 ppolyf_u
Rcore_trim_RU21 core_trim_u4_5 core_trim_u4_6 vsubs 485.100000 ppolyf_u
Rcore_trim_RU22 core_trim_u4_6 core_trim_u4_7 vsubs 485.100000 ppolyf_u
Rcore_trim_RU23 core_trim_u4_7 core_trim_u4_8 vsubs 485.100000 ppolyf_u
Rcore_trim_RU24 core_trim_u4_8 core_trim_u4_9 vsubs 485.100000 ppolyf_u
Rcore_trim_RU25 core_trim_u4_9 core_trim_u4_10 vsubs 485.100000 ppolyf_u
Rcore_trim_RU26 core_trim_u4_10 core_trim_u4_11 vsubs 485.100000 ppolyf_u
Rcore_trim_RU27 core_trim_u4_11 core_trim_u4_12 vsubs 485.100000 ppolyf_u
Rcore_trim_RU28 core_trim_u4_12 core_trim_u4_13 vsubs 485.100000 ppolyf_u
Rcore_trim_RU29 core_trim_u4_13 core_trim_u4_14 vsubs 485.100000 ppolyf_u
Rcore_trim_RU3 core_tn0 core_trim_u2_0 vsubs 485.100000 ppolyf_u
Rcore_trim_RU30 core_trim_u4_14 core_tn0 vsubs 485.100000 ppolyf_u
Rcore_trim_RU31 core_tn0 core_trim_u5_0 vsubs 485.100000 ppolyf_u
Rcore_trim_RU32 core_trim_u5_0 core_trim_u5_1 vsubs 485.100000 ppolyf_u
Rcore_trim_RU33 core_trim_u5_1 core_trim_u5_2 vsubs 485.100000 ppolyf_u
Rcore_trim_RU34 core_trim_u5_2 core_trim_u5_3 vsubs 485.100000 ppolyf_u
Rcore_trim_RU35 core_trim_u5_3 core_trim_u5_4 vsubs 485.100000 ppolyf_u
Rcore_trim_RU36 core_trim_u5_4 core_trim_u5_5 vsubs 485.100000 ppolyf_u
Rcore_trim_RU37 core_trim_u5_5 core_trim_u5_6 vsubs 485.100000 ppolyf_u
Rcore_trim_RU38 core_trim_u5_6 core_trim_u5_7 vsubs 485.100000 ppolyf_u
Rcore_trim_RU39 core_trim_u5_7 core_trim_u5_8 vsubs 485.100000 ppolyf_u
Rcore_trim_RU4 core_trim_u2_0 core_trim_u2_1 vsubs 485.100000 ppolyf_u
Rcore_trim_RU40 core_trim_u5_8 core_trim_u5_9 vsubs 485.100000 ppolyf_u
Rcore_trim_RU41 core_trim_u5_9 core_trim_u5_10 vsubs 485.100000 ppolyf_u
Rcore_trim_RU42 core_trim_u5_10 core_trim_u5_11 vsubs 485.100000 ppolyf_u
Rcore_trim_RU43 core_trim_u5_11 core_trim_u5_12 vsubs 485.100000 ppolyf_u
Rcore_trim_RU44 core_trim_u5_12 core_trim_u5_13 vsubs 485.100000 ppolyf_u
Rcore_trim_RU45 core_trim_u5_13 core_trim_u5_14 vsubs 485.100000 ppolyf_u
Rcore_trim_RU46 core_trim_u5_14 core_trim_u5_15 vsubs 485.100000 ppolyf_u
Rcore_trim_RU47 core_trim_u5_15 core_trim_u5_16 vsubs 485.100000 ppolyf_u
Rcore_trim_RU48 core_trim_u5_16 core_trim_u5_17 vsubs 485.100000 ppolyf_u
Rcore_trim_RU49 core_trim_u5_17 core_trim_u5_18 vsubs 485.100000 ppolyf_u
Rcore_trim_RU5 core_trim_u2_1 core_trim_u2_2 vsubs 485.100000 ppolyf_u
Rcore_trim_RU50 core_trim_u5_18 core_trim_u5_19 vsubs 485.100000 ppolyf_u
Rcore_trim_RU51 core_trim_u5_19 core_trim_u5_20 vsubs 485.100000 ppolyf_u
Rcore_trim_RU52 core_trim_u5_20 core_trim_u5_21 vsubs 485.100000 ppolyf_u
Rcore_trim_RU53 core_trim_u5_21 core_trim_u5_22 vsubs 485.100000 ppolyf_u
Rcore_trim_RU54 core_trim_u5_22 core_trim_u5_23 vsubs 485.100000 ppolyf_u
Rcore_trim_RU55 core_trim_u5_23 core_trim_u5_24 vsubs 485.100000 ppolyf_u
Rcore_trim_RU56 core_trim_u5_24 core_trim_u5_25 vsubs 485.100000 ppolyf_u
Rcore_trim_RU57 core_trim_u5_25 core_trim_u5_26 vsubs 485.100000 ppolyf_u
Rcore_trim_RU58 core_trim_u5_26 core_trim_u5_27 vsubs 485.100000 ppolyf_u
Rcore_trim_RU59 core_trim_u5_27 core_trim_u5_28 vsubs 485.100000 ppolyf_u
Rcore_trim_RU6 core_trim_u2_2 core_tn0 vsubs 485.100000 ppolyf_u
Rcore_trim_RU60 core_trim_u5_28 core_trim_u5_29 vsubs 485.100000 ppolyf_u
Rcore_trim_RU61 core_trim_u5_29 core_trim_u5_30 vsubs 485.100000 ppolyf_u
Rcore_trim_RU62 core_trim_u5_30 vref vsubs 485.100000 ppolyf_u
Rcore_trim_RU7 core_tn0 core_trim_u3_0 vsubs 485.100000 ppolyf_u
Rcore_trim_RU8 core_trim_u3_0 core_trim_u3_1 vsubs 485.100000 ppolyf_u
Rcore_trim_RU9 core_trim_u3_1 core_trim_u3_2 vsubs 485.100000 ppolyf_u
Rstartup_RPU startup_det vdd vsubs 1944177.500000 ppolyf_u_1k
.ENDS bandgap_top
